US07528140B2
Synthesis of N-{2-[(2,2-dicyanovinyl)amino]ethyl}(4-fluorophenyl)carboxamide
After adding acetonitrile (100 mL) and ethoxymethylenemalononitrile (4.5 g) to N-(2-aminoethyl)(4-fluorophenyl)carboxamide hydrochloride (8.3 g), a solution of triethylamine (4.5 g) in acetonitrile (20 mL) was added thereto. After stirring at room temperature for 15 minutes, the solvent was distilled off under reduced pressure, water and ethyl acetate were added to the residue, and the mixture was stirred. The precipitated solid was filtered out to obtain the crude title compound (6.5 g) as a brown solid.

reactant | ethoxymethylenemalononitrile | 4.5 g | C(C)OC=C(C#N)C#N | C6H6N2O
reactant | N-(2-aminoethyl)(4-fluorophenyl)carboxamide hydrochloride | 8.3 g | Cl.NCCNC(=O)C1=CC=C(C=C1)F
reactant | triethylamine | 4.5 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | N-{2-[(2,2-dicyanovinyl)amino]ethyl}(4-fluorophenyl)carboxamide | 6.5 g | C(#N)C(=CNCCNC(=O)C1=CC=C(C=C1)F)C#N | C13H11FN4O
